US04132710
1-Methyl-4-phenyl-4-piperidinol
Anhydrous ether (1900 ml) is placed, under nitrogen, in a previously dried 5 liter 3-necked flask fitted with dropping funnel, reflux condenser and magnetic stirrer. Lithium (28.4 g, 4.1 g. at.) is added together with 20 ml bromobenzene (20 ml). The mixture is heated at reflux temperature until a reaction commences. Heating is discontinued and a total of 312 g. (2.0 moles) bromobenzene is added dropwise during 0.5 hour. The mixture is stirred for a further 3 hours and the remaining traces of lithium are removed. The solution is cooled to 0° C. and 1-methyl-4-piperidone (161 g, 1.42 moles) is added over a 0.5 hour period. The mixture is stirred for a further 2 hours at room temperature, cooled to 0° C. and water (500 ml) is added. The mixture is transferred to a separating funnel. Methylene chloride is added to redissolve the precipitate which formed and the aqueous layer is extracted with ether. The combined ether extracts are dried over Na2SO4, evaporated and crystallized from methylene chloride-pentane to give the title compound, mp 110°-112° C. (S. M. Elreain and J. C. Safranski, Jr., supra, reported bp 128°-130° C./0.9mm).

reactant | ether | 1900 ml | CCOCC | C4H10O
reactant | Lithium | 28.4 g | [Li] | Li
reactant | bromobenzene | 20 ml | BrC1=CC=CC=C1 | C6H5Br
reactant | bromobenzene | 2.0 moles | BrC1=CC=CC=C1 | C6H5Br
reactant | 1-methyl-4-piperidone | 1.42 moles, 161 g | CN1CCC(CC1)=O | C6H11NO
solvent | Methylene chloride | C(Cl)Cl | CH2Cl2
solvent | water | 500 ml | O | H2O
product | 1-Methyl-4-phenyl-4-piperidinol | CN1CCC(CC1)(O)C1=CC=CC=C1 | C12H17NO
